US07060827B2
In a manner analogous to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, the reaction of 2,4-dichloropyrimidine with 3-hydroxyaniline gave N2,N4-bis(3-hydroxyphenyl)-2,4-pyrimidinediamine. LCMS: ret. time: 16.21 min.; purity: 100%; MS (m/e): 295 (MH+).

reactant | N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C16H13FN4O2
reactant | 2,4-dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 3-hydroxyaniline | OC=1C=C(N)C=CC1 | C6H7NO
product | N2,N4-bis(3-hydroxyphenyl)-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC=CC(=N1)NC1=CC(=CC=C1)O | C16H14N4O2
